US08623889B2
Step 5: tert-butyl 2-bromo-5-formylpyridin-4-ylcarbamate
A mixture of 6-bromo-4-iodonicotinaldehyde (50 mg, 0.2 mmol), tert-butyl carbamate (28 mg, 0.24 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (18 mg, 0.03 mmol), palladium acetate (5 mg, 0.02 mmol), and cesium carbonate (100 mg, 0.32 mmol) in 1,4-dioxane (1 mL) was heated at 90° C. for 1 hour. The cooled reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (100 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 4 g, ISCO, 0-50% ethyl acetate in heptane) to afford the title compound as a white solid (18 mg, 40%). 1H NMR (400 MHz, CDCl3) δ 10.42 (s, 1H), 9.93 (s, 1H), 8.61 (s, 1H), 8.50 (s, 1H), 1.55 (s, 9H).

reactant | 6-bromo-4-iodonicotinaldehyde | 0.2 mmol, 50 mg | BrC1=NC=C(C=O)C(=C1)I | C6H3BrINO
reactant | tert-butyl carbamate | 0.24 mmol, 28 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.03 mmol, 18 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 0.32 mmol, 100 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.02 mmol, 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl 2-bromo-5-formylpyridin-4-ylcarbamate | 18 mg, 40% | BrC1=NC=C(C(=C1)NC(OC(C)(C)C)=O)C=O | C11H13BrN2O3
